US07041696B2
Preparation of (3S,6S,10aS)-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid (14):
[(Isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid methyl ester, 13, (1.62 g, 4.1 mmol) are added to 20 mL of THF/H2O (3:1). Lithium hydroxide (0.25 g) is added and the reaction stirred at room temperature for 18 hours then diluted with ethyl acetate (100 mL). The organic layer is washed with 1N HCl, brine, and dried over MgSO4. Solvent is removed in vacuo to afford 1.41 g (90% yield of the desired product as an oil, which is used without further purification. 1H NMR (CDCl3): δ 9.30 (d, J=8.5 Hz, 1H), 8.92 (d, J=7.7 Hz, 1H), 8.53 (d, J=7.8 Hz, 1H), 7.93 (m, 2H), 7.83–7.71 (m, 2H), 5.88 (m, 1H), 5.75 (m, 1H), 5.50 (m, 1H), 4.70 (d, 7.4 Hz, 1H), 4.37 (m, 1H), 3.10–2.91 (m, 2H), 2.44 (m, 3H), 2.21 (m, 1H), 2.03 (m, 2H), 13C NMR (CDCl3): δ 173.5, 171.9, 165.0, 148.1, 139.3, 137.9, 137.6, 131.7, 129.8, 129.5, 127.7, 127.3, 126.9, 125.9, 125.2, 61.4, 59.5, 50.9, 33.9, 33.3, 32.5, 26.0. ESI MS 380.15(M+H).

reactant | [(Isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid methyl ester | COC(=O)C1CC(C2N1C(CCC=CC2)=O)NC(=O)C2=NC=CC1=CC=CC=C21 | C22H23N3O4
reactant | THF H2O | 20 mL | C1CCOC1.O
reactant | Lithium hydroxide | 0.25 g | [OH-].[Li+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (3S,6S,10aS)-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid | 90% yield | C1(=NC=CC2=CC=CC=C12)C(=O)N[C@H]1CC=CC[C@H]2N(C1=O)[C@@H](CC2)C(=O)O | C21H21N3O4
